US07642264B2
2-(3-Bromo-phenyl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine (example A.40) (0.401 g, 1.4 mmol) and commercially available 3-bromo-benzene-boronic acid (0.366 g, 1.82 mmol) according to the general procedure IVb. Obtained as a light yellow oil (0.13 g, 23%). MS (ISP) 409.2 [(M+H)+].

reactant | 2-chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine | 1.4 mmol, 0.401 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C | C13H10ClF3N2
reactant | 3-bromo-benzene-boronic acid | 1.82 mmol, 0.366 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C)C1=CC(=C(C=C1)C(F)(F)F)C | C19H14BrF3N2
